US07816522B2
(88b) 4-{[(5-oxo-1-pyridazin-3-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)-(3,4,5-trimethoxyphenyl)methyl]amino}benzamidine acetate
The same procedure was carried out as in Example (6a), except that {2-(3-hydroxy-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester, methyl iodide and 3-hydrazinopyridazine hydrochloride were used instead of respectively the {2-(3-hydroxy-5-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester, 1-bromo-2-methoxyethane and 2-hydrazinopyrimidine, to give the title compound.

reactant | {2-(3-hydroxy-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C(=C1)OC)OC)O)SC)=O | C22H22N4O6S
reactant | methyl iodide | CI | CH3I
reactant | 3-hydrazinopyridazine hydrochloride | Cl.N(N)C=1N=NC=CC1
reactant | {2-(3-hydroxy-5-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=CC(=C1)OC)O)SC)=O | C21H20N4O5S
reactant | 1-bromo-2-methoxyethane | BrCCOC | C3H7BrO
reactant | 2-hydrazinopyrimidine | N(N)C1=NC=CC=N1 | C4H6N4
product | 4-{[(5-oxo-1-pyridazin-3-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)-(3,4,5-trimethoxyphenyl)methyl]amino}benzamidine acetate | C(C)(=O)O.O=C1NC(=NN1C=1N=NC=CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)NC1=CC=C(C(=N)N)C=C1 | InChI=1S/C23H24N8O4.C2H4O2/c1-33-16-11-14(12-17(34-2)20(16)35-3)19(27-15-8-6-13(7-9-15)21(24)25)22-28-23(32)31(30-22)18-5-4-10-26-29-18;1-2(3)4/h4-12,19,27H,1-3H3,(H3,24,25)(H,28,30,32);1H3,(H,3,4)
